US07893056B2
To a 0° C. solution of (3R)-5-oxo-N,4-bis(phenylmethyl)-3-morpholinecarboxamide (assumed 96.07 g, 296.2 mmol) in PhMe (750 mL) was added Red-Al (65% w/w in PhMe, 645 mL) via addition funnel. After approximately 50 mL of Re-Al had been added, the resulting mixture was warmed to room temperature, and the remainder of the Red-Al was then added over 30 min. The mixture was then heated at 50° C. and stirred overnight. The solution was cooled to 0° C., and the reaction was quenched by the slow dropwise addition of 1 N aqueous NaOH (50 mL). An additional portion of 1 N aqueous NaOH (500 mL) was then added, followed by Et2O (200 mL). The phases were separated, and the organic phase was washed with fresh 1 N aqueous NaOH (400 mL). The combined aqueous phase was extracted with fresh 4:1 PhMe-Et2O (250 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give 1-phenyl-N-{[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine as a yellow oil that was used without further purification. LCMS: (M+H)+: 297.1.

reactant | (3R)-5-oxo-N,4-bis(phenylmethyl)-3-morpholinecarboxamide | 296.2 mmol, 96.07 g | O=C1COC[C@@H](N1CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C19H20N2O3
reactant | Red-Al | 645 mL | COCCO[AlH2-]OCCOC.[Na+]
solvent | PhMe | 750 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-N-{[(3S)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine | C1(=CC=CC=C1)CNC[C@@H]1N(CCOC1)CC1=CC=CC=C1 | C19H24N2O
